US07485661B2
Preparation of methyl 4-amino-5-cyano-thiophene-2-carboxylate (3)
A suspension of methyl 5-cyano-4-nitro-thiophene-2-carboxylate (0.17 mol, 36 g) and iron powder (0.51 mol, 28.5 g) in glacial acetic acid 68 mL (1.2 mol) was refluxed for 3 hours. The crude was concentrated under vacuum and neutralized with diluted ammonia. The aqueous layer was extracted with ethyl acetate (3×250 mL) and dried over Na2SO4. The filtrate was evaporated to dryness to give a yellow solid, which was purified by flash chromatography over silica gel using hexane/ethyl acetate (38:12) as eluent, to afford the title compound as a yellow solid (21.4 g, 69%).

reactant | methyl 5-cyano-4-nitro-thiophene-2-carboxylate | 0.17 mol, 36 g | C(#N)C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C7H4N2O4S
reactant | acetic acid | 1.2 mol, 68 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.51 mol, 28.5 g | [Fe] | Fe
product | methyl 4-amino-5-cyano-thiophene-2-carboxylate | 21.4 g, 69% | NC=1C=C(SC1C#N)C(=O)OC | C7H6N2O2S
